US06054448
ii) Benzyl methyl cis-3-methoxycarbonylcyclobutylmalonate
Sodium borohydride (4.28 g, 0.11 mol) was added portionwise to a stirred solution of benzyl methyl 3-methoxycarbonylcyclobutylidenemalonate (30 g, 0.09 mol) in dry tetrahydrofuran (200 ml) cooled to 0° C. The cooling bath was then removed and after 20 minutes water (300 ml) was added. The mixture was extracted with diethyl ether (3×200 ml) and the combined extracts washed with brine solution. The organic phase was dried, filtered and evaporated to a colourless oil (27.0 g). Chromatography on flash silica eluting with hexane-ether (9:1 then 8:2 then 7:3) gave the title compound as a colourless oil).

reactant | Sodium borohydride | 0.11 mol, 4.28 g | [BH4-].[Na+]
reactant | benzyl methyl 3-methoxycarbonylcyclobutylidenemalonate | 0.09 mol, 30 g | COC(=O)C1CC(C1)=C(C(=O)OCC1=CC=CC=C1)C(=O)OC | C17H18O6
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | Benzyl methyl cis-3-methoxycarbonylcyclobutylmalonate | COC(=O)[C@H]1C[C@H](C1)C(C(=O)OCC1=CC=CC=C1)C(=O)OC | C17H20O6
